US09371319B2
Preparation 147: 1-(2,2,2-Trifluoroethyl)-4-((trimethylsilyl)ethynyl)-1H-pyrazole
4-Iodo-1-(2,2,2-trifluoroethyl)-1H-pyrazole (Preparation 146, 970 mg, 3.51 mmol) was dissolved in DMF (4.9 mL) and TMS-acetylene (0.7 ml, 486 mg, 4.96 mmol) was added; followed by di-isopropylamine (0.65 mL), copper(I) iodide (44 mg) and triphenylphosphine (184 mg). The reaction was flushed with nitrogen. Palladium acetate (52.5 mg) was added and the reaction flushed again with nitrogen (×3) before heating at 60° C. for 60 minutes. The reaction was cooled and added to water (50 mL). The product was extracted with ether (3×25 mL). The combined organic layers were washed with water (3×20 mL) and brine, then dried (MgSO4) and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 1:2 ethyl acetate:cyclohexane to afford the title compound (844 mg, 97%). 1H-NMR (CDCl3, 500 MHz): δ 0.24 (s, 9H), 4.68 (q, J=8.20, 2H), 7.66 (s, 1H), 7.67 (s, 1H).

reactant | 4-Iodo-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 3.51 mmol, 970 mg | IC=1C=NN(C1)CC(F)(F)F | C5H4F3IN2
reactant | TMS-acetylene | 4.96 mmol, 0.7 ml, 486 mg | [Si](C)(C)(C)C#C | C5H10Si
reactant | di-isopropylamine | 0.65 mL | C(C)(C)NC(C)C | C6H15N
reactant | triphenylphosphine | 184 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 4.9 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 44 mg | [Cu]I
product | 1-(2,2,2-Trifluoroethyl)-4-((trimethylsilyl)ethynyl)-1H-pyrazole | 844 mg, 97% | FC(CN1N=CC(=C1)C#C[Si](C)(C)C)(F)F | C10H13F3N2Si
